US07109197B2
(3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine
A mixture of (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (4.8 g, 0.015 mol) in hydrazine (20 ml, 0.41 mol) is refluxed for 90 minutes. The reaction is poured into ethanol (300 ml) with efficient stirring. The resulting precipitate is filtered with suction to yield the title compound, m.p. 201–203° C.

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.015 mol, 4.8 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | hydrazine | 0.41 mol, 20 ml | NN | H4N2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
